US07582640B2
Synthesis of (1,1-dimethylethyl)3-[[6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-2,5-dimethyl-4-pyrimidinyl]amino]-N-[(phenylmethoxy)carbonyl]alaninate
A mixture of 2.2 g (6.15 mmoles) of 6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-2,5-dimethyl-4-chloro-pyrimidine and 2.17 g (7.38 mmoles) of (1,1-dimethylethyl) 3-amino-N-[(phenylmethoxy)carbonyl]alaninate (prepared according to J. Med. Chem. (2001), 44(8), 1158-1176), is heated under reflux for 24 hours in the presence of 1.31 g (8.61 mmoles) of caesium fluoride, 383 mg (0.615 mmoles) of (2,2′-bis(diphenylphosphino)-1,1′-binaphthyl and 281 mg (0.307 mmoles) of tris-dibenzylideneacetone)dipalladium(o), in 55 ml of 1,2-dimethoxyethane. The reaction mixture is then returned to ambient temperature, 281 mg (0.307 mmoles) of tris-dibenzylideneacetone)dipalladium(o) is added, then the reaction mixture is taken to reflux for another 24 hours. After cooling down the solution is concentrated to dryness under reduced pressure (2 kPa) then taken up in a mixture of water, ethyl acetate and a saturated solution of sodium bicarbonate. The organic phase is decanted and the aqueous phase is extracted with ethyl acetate. The combined organic phases are dried over magnesium sulphate and evaporated to dryness under reduced pressure (2 kPa). The residue is chromatographed on alumina with a gradient of isopropyl ether/ethyl acetate (50/50)-dichloromethane (50-50). The fractions containing the expected product are combined for a second purification on silicagel with a gradient of ethyl acetate-heptane-methanol 50-50-0 to 90-0-10. 550 mg (Yield=15%) of expected product is obtained.

reactant | 6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-2,5-dimethyl-4-chloro-pyrimidine | 6.15 mmoles, 2.2 g | N1CCCC2=CC=C(N=C12)C1CCN(CC1)C1=C(C(=NC(=N1)C)Cl)C | C19H24ClN5
reactant | (1,1-dimethylethyl) 3-amino-N-[(phenylmethoxy)carbonyl]alaninate | 7.38 mmoles, 2.17 g | NC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C15H22N2O4
reactant | caesium fluoride | 8.61 mmoles, 1.31 g | [F-].[Cs+]
solvent | 1,2-dimethoxyethane | 55 ml | COCCOC | C4H10O2
product | (1,1-dimethylethyl)3-[[6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-2,5-dimethyl-4-pyrimidinyl]amino]-N-[(phenylmethoxy)carbonyl]alaninate | 550 mg, Yield=15% | CC(C)(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CNC1=NC(=NC(=C1C)N1CCC(CC1)C1=CC=C2CCCNC2=N1)C)=O | C34H45N7O4
